US07589090B2
To a cooled solution of 1-(2-Hydroxy-5-methoxy-phenyl)-ethanone (10.0 g) in 80 mL of THF was gradually added 46.4 g of 3M solution of MeMgCl in THF at a rate such that the reaction mixture temperature did not exceed 25 degrees C. Following addition of the MeMgCl solution, the reaction mixture was stirred at ambient temperature for 18 hours. To the stirred solution was then added 10% palladium on carbon (1.02 g, 50% water wet) suspended in 4 mL of THF. The reaction mixture was placed under a hydrogen atmosphere at 5 psig and cooling was applied to maintain a temperature of approximately 25° C. To the cooled mixture was gradually added concentrated HCl (20 mL) while maintaining the reaction temperature at 25° C. The resultant mixture was stirred at ambient temperature for 18 hours, then treated with 45 mL water and filtered through a bed of Celite to remove suspended catalyst. The filter cake was rinsed with EtOAc and the combined filtrate was separated. The organic phase was washed with water, then concentrated under reduced pressure to give 10.4 g of 2-isopropyl-4-methoxy-phenol, MS (M+H)=167. This product was dissolved in 2-butanone (20.4 g) and the crude solution was employed directly in the next step.

reactant | 1-(2-Hydroxy-5-methoxy-phenyl)-ethanone | 10.0 g | OC1=C(C=C(C=C1)OC)C(C)=O | C9H10O3
reactant | MeMgCl | C[Mg]Cl
reactant | HCl | 20 mL | Cl | ClH
reactant | water | 45 mL | O | H2O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 1.02 g | [Pd] | Pd
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 2-isopropyl-4-methoxy-phenol | 10.4 g | C(C)(C)C1=C(C=CC(=C1)OC)O | C10H14O2
